Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
scheduled induction of labor
 
Major Surgical or Invasive Procedure:
vaginal birth

 
History of Present Illness:
___ G4P1 at ___ with gestational hypertension and gestational 
thrombocytopenia for induction of labor. Upon presentation, 
patient is asymptomatic without headache, visual change, or 
right upper quadrant pain. 
She also had reassuring eval in triage for persistent DFM. 
Denies
ctx, VB, LOF. feeling normal FM today.

PNC: ___ ___ by LMP
Rh neg/Ab neg/RPRNR/RI/HBsAg neg/HIV neg/GBS neg
nl GLT
nl NIPT
nl FFS
US ___ for gHTN and edema -> 3731g 91%, AFI 15.7

 
Past Medical History:
Ob hx: SAB x2, SVD at 39w 9#9 c/b gHTN
PMHx: obesity with pre-preg BMI of 35, ADHD previously on
adderal. ? chronic HTN with BP 148/82 at 13w

PSHx: knee surg

 
Social History:
denies t/e/d

 
Physical Exam:
Physical Exam
97.8 96 125/82 18
Gen: A&O, comfortable
speaking in full setences
Abd: soft, gravid, nontender
EFW 8.5# by Leopolds
Ext: no calf tenderness

Upon discharge
Vital signs stable
Well appearing, no acute distress
Abdomen soft, nontender
Lochia minimal

 
Pertinent Results:
___ 02:25PM   PLT COUNT-177
___ 02:25PM   WBC-9.8 RBC-3.78* HGB-11.5* HCT-32.1* MCV-85 
MCH-30.4 MCHC-35.8* RDW-15.2
___ 02:25PM   URIC ACID-5.5
___ 02:25PM   ALT(SGPT)-18
___ 02:25PM   estGFR-Using this
___ 02:25PM   CREAT-0.5
 
Brief Hospital Course:
The patient was admitted to the obstetrical service for 
induction of labor for gestational hypertension and gestational 
thrombocytopenia on ___.  She underwent a spontaneous 
vaginal delivery of a 10lb 4oz female complicated by immediate 
postpartum hemorrhage of 1000 mL due to lacerations and uterine 
atony.  She was hypotensive during this period and improved with 
intravenous fluids and phenylephrine.  Placenta was delivered 
spontaneously and apparently intact.  Her postpartum hematocrit 
was 22 and she was transfused two units of packed red blood 
cells after being consented.  Her post transfusion hematocrit 
was 21.3.  She remained hemodynamically stable.  Her platelets 
remained within normal range during her course, and her blood 
pressures never required treatment.  She was discharged home in 
stable condition on ___.  
 
Medications on Admission:
zantac, tylenol, PNV

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO BID Duration: 3 Months 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*180 Tablet Refills:*1
2. Acetaminophen ___ mg PO Q6H:PRN Pain 
3. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0
4. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal birth
post partum hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per instruction sheets
 
Followup Instructions:
___